US04178460
Preparation of α-Isopropyl-4-trifluoromethylthiophenylacetic acid
α-Isopropyl-4-trifluoromethylthiophenylacetonitrile (6.9 g real, 0.0265 mol) and 50% sodium hydroxide (25 g, 0.312 mol) are combined in 53 ml of ethylene glycol and heated at gentle reflux for 18 hours. The reaction is poured into ice water and extracted with ether. The aqueous phase is acidified with concentrated HCl, then re-extracted with ether which is washed with water and dried over sodium sulfate. Evaporation in vacuo gives 2.05 g of an oil product.

reactant | α-Isopropyl-4-trifluoromethylthiophenylacetonitrile | 0.0265 mol, 6.9 g | C(C)(C)C(C#N)C1=CC=C(C=C1)SC(F)(F)F | C12H12F3NS
reactant | sodium hydroxide | 0.312 mol, 25 g | [OH-].[Na+]
reactant | ethylene glycol | 53 ml | C(CO)O | C2H6O2
product | α-Isopropyl-4-trifluoromethylthiophenylacetic acid | 2.05 g | C(C)(C)C(C(=O)O)C1=CC=C(C=C1)SC(F)(F)F | C12H13F3O2S
